US04190731
The mixture is then hydrogenated continuously on a copper chromite catalyst under 300 bars and at 180° C. 865 g of n-butanol, 98 g of iso-butanol and 92 g of 2-ethyl-hexanol are obtained.

reactant | n-butanol | 865 g | C(CCC)O | C4H10O
catalyst | copper chromite | [Cr](=O)([O-])[O-].[Cu+2]
solvent | iso-butanol | 98 g | C(C(C)C)O | C4H10O
product | 2-ethyl-hexanol | 92 g | C(C)C(CO)CCCC | C8H18O
